US08426411B2
A round bottom flask was charged with 10 wt % Pd/C (10 g, 9.4 mmol). The flask was cooled to about 0° C. and EtOAc (400 mL) was added under a nitrogen atmosphere. The cooling bath was removed and ethyl 2-ethyl-4-oxocyclopent-2-enecarboxylate (47.8 g, 263 mmol, Preparation #V.1) was added. Hydrogen gas was bubbled through the mixture for about 5 min and the mixture was then stirred under a hydrogen atmosphere for about 48 h. The hydrogen source was removed and the mixture was bubbled with nitrogen for about 5 min and was filtered through a pad of Celite®. The filter cake was rinsed with EtOAc (400 mL). The filtrate was concd under reduced pressure to give ethyl 2-ethyl-4-oxocyclopentanecarboxylate (about 9:1 mixture cis:trans) (48.0 g, 99%) as a yellow liquid: 1H NMR (CDCl3) δ 4.23-4.10 (m, 2H), 3.22 (m, 1H), 2.59-2.50 (m, 1H), 2.44-2.28 (m, 3H), 2.26-2.16 (m, 1H), 1.58-1.46 (m, 1H), 1.41-1.30 (m, 1H), 1.30-1.23 (m, 3H), 1.02-0.91 (m, 3H).

reactant | ethyl 2-ethyl-4-oxocyclopent-2-enecarboxylate | 263 mmol, 47.8 g | C(C)C=1C(CC(C1)=O)C(=O)OCC | C10H14O3
catalyst | Pd/C | 9.4 mmol, 10 g | [Pd] | Pd
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | ethyl 2-ethyl-4-oxocyclopentanecarboxylate | 48.0 g, 99% | C(C)C1C(CC(C1)=O)C(=O)OCC | C10H16O3
